US04965367
When 1.72g of trimethylsilylacetamide was mixed with 0.92 g of 1,1-dichlorosilacyclobutane in 5 g of methylene chloride, a white precipitate formed. The precipitate dissolved upon shaking and slowly recrystallized as .white needles. There was no trimethylchlorosilane detected in the residual fluid, indicating that the expected reaction to form 1,1-diacetamidosilacyclobutane did not occur.

reactant | trimethylsilylacetamide | 1.72g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 1,1-dichlorosilacyclobutane | 0.92 g | Cl[Si]1(CCC1)Cl | C3H6Cl2Si
solvent | methylene chloride | 5 g | C(Cl)Cl | CH2Cl2
product | 1,1-diacetamidosilacyclobutane | C(C)(=O)N[Si]1(CCC1)NC(C)=O | C7H14N2O2Si
